.SUBCKT pvcell neg pos PARAMS: Illumination=1
.model foo D (IS=8.131417763694951e-14 N=3.6 TNOM=25.0)
Isrc neg internal DC {Illumination * 0.5220361930750081}
Dfoo internal neg foo
Rsh internal neg 292.43552202465725
Rs internal pos 0.020276131769475635
.ENDS pvcell
